US09062013B2
Ethyl 3-(2,2-difluoro-benzo[1,3]dioxol-5-yl)-acrylate
2,2-difluoro-1,3-benzodioxole-5-carboxaldehyde (5.0 g, 26.9 mmol) and mono-ethyl malonate (4.1 ml, 34.9 mmol) were reacted as described under General Procedure A to furnish the title compound (5.6 g, 82%) as a white solid. 1H NMR (300 MHz, CDCl3) δ 7.61 (d, J=16.0 Hz, 1H), 7.26-7.22 (m, 2H), 7.06 (d, J=7.9 Hz, 1H), 6.33 (d, J=16.0 Hz, 1H), 4.26 (q, J=7.1 Hz, 2H), 1.33 (t, J=7.1 Hz, 3H).

reactant | 2,2-difluoro-1,3-benzodioxole-5-carboxaldehyde | 26.9 mmol, 5.0 g | FC1(OC2=C(O1)C=CC(=C2)C=O)F | C8H4F2O3
reactant | mono-ethyl malonate | 34.9 mmol, 4.1 ml | C(CC(=O)[O-])(=O)OCC
product | Ethyl 3-(2,2-difluoro-benzo[1,3]dioxol-5-yl)-acrylate | 5.6 g, 82% | FC1(OC2=C(O1)C=CC(=C2)C=CC(=O)OCC)F | C12H10F2O4
